US04470842
18.6 g (80% stength solution in toluene=0.125 mol) of propargyl bromide and 0.5 g of pentyltributylphosphonium bromide were added to a solution of 23.5 g (0.1 mol) of 4-amino-6-chloro-tert.-butyl-3-mercapto-1,2,4-triazin-5-one and 4.4 g of sodium hydroxide in 40 ml of water. The reaction mixture was stirred for about 20 hours at room temperature, 100 ml of toluene were then added, and the mixture was filtered. The filtrate was washed with 100 ml of water, with 100 ml of 1 N sodium hydroxide solution and again with water. The organic phase was dried over sodium sulphate, filtered and concentrated. The oily residue was brought to crystallization by trituration in diisopropyl ether, and the product was recrystallized from ethyl acetate/petroleum ether. 13.8 g (57.5% of theory) of 4-amino-6-chloro-tert.-butyl-3-propargylthio-1,2,4-triazin-5-one of melting point 107°-108° C. were obtained.

reactant | propargyl bromide | 0.125 mol, 18.6 g | C(C#C)Br | C3H3Br
reactant | 4-amino-6-chloro-tert.-butyl-3-mercapto-1,2,4-triazin-5-one | 0.1 mol, 23.5 g | NN1C(=NN(C(C1=O)Cl)C(C)(C)C)S | C7H13ClN4OS
reactant | sodium hydroxide | 4.4 g | [OH-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
catalyst | pentyltributylphosphonium bromide | 0.5 g | [Br-].C(CCCC)[P+](CCCC)(CCCC)CCCC
product | 4-amino-6-chloro-tert.-butyl-3-propargylthio-1,2,4-triazin-5-one | 13.8 g, 57.5% | NN1C(=NN(C(C1=O)Cl)C(C)(C)C)SCC#C | C10H15ClN4OS
